US08110585B2
1-[(1S,2S)-2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride
To a solution of tert-butyl {[(1S,2S)-2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate (315 mg, 0.986 mmol) in methanol (1 mL) was added hydrochloric acid-methanol reagent (manufactured by TCI, 3 mL) solution, and the mixture was stirred at room temperature for 14 hr. The solvent was concentrated under reduced pressure and the obtained crystals were washed with ethyl acetate to give the title compound (297 mg, yield 100%).

reactant | tert-butyl {[(1S,2S)-2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate | 0.986 mmol, 315 mg | FC1=C(C2=CN(N=C2C=C1)C)[C@@H]1[C@H](C1)CNC(OC(C)(C)C)=O | C17H22FN3O2
reactant | hydrochloric acid methanol | 3 mL | Cl.CO
solvent | methanol | 1 mL | CO | CH4O
product | 1-[(1S,2S)-2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride | 297 mg, yield 100% | Cl.Cl.FC1=C(C2=CN(N=C2C=C1)C)[C@@H]1[C@H](C1)CN | InChI=1S/C12H14FN3.2ClH/c1-16-6-9-11(15-16)3-2-10(13)12(9)8-4-7(8)5-14;;/h2-3,6-8H,4-5,14H2,1H3;2*1H/t7-,8+;;/m1../s1
